US05098930
Sodium hydride (50% w/w dispersion in mineral oil, 5 g) was added portionwise to a mixture of benzyl alcohol (12.4 g) and dimethylformamide (150 ml) which had been cooled to 0° C. The mixture was allowed to warm to ambient temperature and was stirred for 1 hour. 3,5-Dibromopyridine (25.2 g) was added and the mixture was heated to 60° C. for 2 hours. The mixture was cooled to ambient temperature and partitioned between ethyl acetate and a dilute aqueous potassium carbonate solution. The organic layer was washed with a dilute aqueous hydrochloric acid solution and with a saturated aqueous sodium chloride solution, dried (MgSO4) and evaporated. The residue was a red oil which on trituration under petroleum ether (b.p. 60°-80° C.) gave 5-benzyloxy-3-bromopyridine (18.6 g, 67%), m.p. 65°-67° C.

reactant | Sodium hydride | 5 g | [H-].[Na+]
reactant | benzyl alcohol | 12.4 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 3,5-Dibromopyridine | 25.2 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-3-bromopyridine | 18.6 g, 67% | C(C1=CC=CC=C1)OC=1C=C(C=NC1)Br | C12H10BrNO
